Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea/vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ presumed familial hypertriglyceridemia, recurrent acute 
pancreatitis with known pancreatic pseudocyst, and DM, who 
presented with acute onset of abdominal pain and n/v. 

The patient has had about ten hospitalizations for pancreatitis 
since ___. His pancreatitis was attributed to his 
hypertriglyceridemia and his alcohol use.  Most recently, he was 
hospitalized in ___, where he required plasmapheresis for a 
triglyceride level of > 6500. Since then, he has been readmitted 
two times with abdominal pain and pancreatitis, has developed a 
pseudocyst, and has also been diagnosed with DM (which is 
possibly a result of his pancreatitis).

On the morning of presentation, he had recurrence of epigastric 
abdominal pain with associated nausea and NBNB emesis. These 
symptoms are similar to his prior presentations with 
pancreatitis.

In the ED, vitals were stable: 98.3, 78, 122/80, 18, 100% RA. 
Basic labs, including his LFTs and lipase, were unremarkable 
(although triglycerides were not checked). CT abdomen with 
contrast showed enlargement of his known pseudocyst from 2.4 to 
4 cm and inflammatory findings consistent with acute-on-chronic 
pancreatitis. He was given dilaudid, IV NS and was admitted to 
medicine. 

REVIEW OF SYSTEMS
GEN: denies fevers/chills
CARDIAC: denies chest pain or palpitations
PULM: denies new dyspnea or cough
GI: as per HPI
GU: denies dysuria or change in appearance of urine
Full 14-system review of systems otherwise negative and 
non-contributory. 
 
Past Medical History:
Presumed familial hypertriglyceridemia (followed by Dr. ___ 
___ at cardiology ___)
Recurrent acute pancreatitis due to hypertriglyceridemia and 
alcohol (followed by Dr. ___ at ___)
Splenic vein thrombosis 
Pancreatic pseudocyst
DM (possibly from pancreatic insufficiency)
 
Social History:
___
Family History:
Gallbladder problems, hypertension
 
Physical Exam:
VITALS: last 24-hour vitals were reviewed.
GEN: mild distress due to abdominal pain
EYE: anicteric, EOMI
ENT: MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, ND, NABS. Tender to light palpation, especially in the 
epigastrium. No rebound. 
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema

Exam on discharge:
Vitals: 97.7 BP:121/81 HR: 55 R:18 98 RA 
Gen: NAD, lying in bed 
Eyes: sclerae anicteric 
ENT: MMM, OP clear, no nasal discharge
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, slightly tender in epigastrium, no rebound or guarding
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect
 
Pertinent Results:
ADMISSION LABS ___:
WBC-7.8# RBC-5.14# HGB-14.9# HCT-44.4# MCV-86 RDW-14.0 PLT 
COUNT-181#
GLUCOSE-130* UREA N-20 CREAT-0.9 SODIUM-143 POTASSIUM-3.9 
CHLORIDE-102 TOTAL CO2-22
ALT(SGPT)-13 AST(SGOT)-16 ALK PHOS-56 TOT BILI-0.5
LIPASE-___/P W/ CONTRAST ___
1. Interval enlargement of the dominant area of walled-off 
necrosis involving the body of the pancreas, currently measuring 
up to 4.0 cm, previously 2.8 cm in ___. 
2. There remains persistent fat stranding seen surrounding the 
anterior aspect of the pancreas. A component of acute 
pancreatitis would be possible. No new areas of necrosis. 
3. Splenomegaly with areas of hypodensity in the spleen, 
unchanged and likely representing prior infarction. Chronic 
occlusion of the splenic vein. 

****************
Labs on discharge
******************

___ 07:25AM BLOOD WBC-3.8* RBC-4.30* Hgb-12.5* Hct-37.3* 
MCV-87 MCH-29.1 MCHC-33.5 RDW-13.6 RDWSD-43.8 Plt ___
___ 07:25AM BLOOD Glucose-82 UreaN-10 Creat-0.7 Na-141 
K-3.5 Cl-106 HCO3-26 AnGap-13
___ 07:25AM BLOOD ALT-10 AST-11 LD(LDH)-100 AlkPhos-44 
TotBili-0.4
___ 07:25AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.___ w/ presumed familial hypertriglyceridemia, recurrent acute 
pancreatitis with known pancreatic pseudocyst, and DM, who 
presented with acute onset of abdominal pain and n/v. 

#Acute pancreatitis
#Pancreatic necrosis
Abdominal pain and imaging findings c/w acute-on-chronic 
pancreatitis. Lipase is not elevated but with his recurrent 
pancreatitis and evidence of increasing pancreatic insufficiency 
this is not unexpected. He was kept NPO with IV fluids. The 
following day, the patient's pain improved. He was tolerating a 
regular diet without nausea, vomiting or abdominal pain prior to 
discharge. His triglycerides were checked and were 119 therefore 
it is unclear what triggered the patient's exacerbation.  For 
the patient's pancreatic necrosis, advanced endoscopy was 
consulted. They reviewed the images and felt that the pseudocyst 
did not warrant drainage at this time. The patient has 
outpatient follow up scheduled with Dr. ___ in ___ with 
an MRCP prior to this appointment.  He was encouraged to follow 
his low fat diet and abstain from alcohol until follow up. 

#HYPERTRIGLYCERIDEMIA
- continued fenofibrate and fish oil

#DM
On Lantus 10u and metformin 500 mg BID at home. The patient was 
resumed on his home Lantus on discharge. Metformin was held for 
48hs as he was given IV contrast.

Transitional issues:
- The patient has follow up scheduled with gastroenterology  
with repeat imaging

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO TID 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Fenofibrate 145 mg PO DAILY 
4. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
Do not take more than 4grams daily  
2.  Glargine 10 Units Bedtime 
3.  Fenofibrate 145 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO TID  
5. HELD- MetFORMIN (Glucophage) 500 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis
Pancreatic necrosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with abdominal pain, 
nausea and vomiting. You had a CAT scan which showed 
inflammation in your pancreas and enlargement of the fluid 
collection. You were seen by the advanced endoscopy team who did 
not feel that your fluid collection needed to be drained. Your 
triglycerides were checked and were normal. You should continue 
your low fat diet and abstain from alcohol. Please follow up 
with Dr. ___ as scheduled.

We wish you the best.
Your ___ Care team
 
Followup Instructions:
___